US09359359B2
Step 2 1-(3-((tert-Butyldimethylsilyl)oxy)propyl)-7-(4-chlorobenzyl)-8-(cyclopentyloxy)-3-methyl-1H-purine-2,6(3H,7H)-dione (0.25 g, 0.46 mmol) was dissolved in ethanol (5 mL) and 6N aqueous HCl (1 mL) was added. The clear solution was stirred at room temperature for 1 h. The reaction was diluted with water (100 mL) and extracted with ethyl acetate (3×100 mL). The combined extracts were dried with magnesium sulfate, filtered and the solvent was removed under reduced pressure to a golden oil. The oil was purified using a 2000 micron preparative TLC plate eluted with ethyl acetate. Target band was scraped off plate, eluted off silica gel with ethyl acetate and evaporated under reduced pressure to give 7-(4-chlorobenzyl)-8-(cyclopentyloxy)-1-(3-hydroxypropyl)-3-methyl-1H-purine-2,6(3H,7H)-dione (0.028 g, 14% yield) as a white solid. LCMS retention time=3.656 min and 98% purity, LCMS MH+ 433. 1H NMR (DMSO-d6) δ 7.34 (dd, 4H, J=12 and 48 Hz), 5.34-5.40 (m, 1H), 5.18 (s, 2H), 4.42 (t, 1H, J=4 Hz), 3.89 (t, 2H, J=8 Hz), 3.38-3.45 (m, 2H), 3.36 (s, 3H), 1.55-1.93 (m, 8H).

reactant | 1-(3-((tert-Butyldimethylsilyl)oxy)propyl)-7-(4-chlorobenzyl)-8-(cyclopentyloxy)-3-methyl-1H-purine-2,6(3H,7H)-dione | 0.46 mmol, 0.25 g | [Si](C)(C)(C(C)(C)C)OCCCN1C(N(C=2N=C(N(C2C1=O)CC1=CC=C(C=C1)Cl)OC1CCCC1)C)=O | C27H39ClN4O4Si
reactant | HCl | 6N, 1 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | 7-(4-chlorobenzyl)-8-(cyclopentyloxy)-1-(3-hydroxypropyl)-3-methyl-1H-purine-2,6(3H,7H)-dione | 0.028 g, 14% yield | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCCO)=O)C)OC2CCCC2)C=C1 | C21H25ClN4O4
